US08497264B2
In a 50-mL flask, the crude (S)-5-amino-4′-fluoro-2′-((3-methyloxetan-3-yl)ethynyl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol (0.251 g, 0.636 mmol) was dissolved in THF (12 mL). Boc2O (0.303 g, 1.39 mmol) and triethylamine (0.204 mL, 1.47 mmol) were added. After 14 h, the reaction mixture was concentrated to afford (S)-tert-butyl 4′-fluoro-7′-hydroxy-2′-((3-methyloxetan-3-yl)ethynyl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate which was used in the next step without further purification.

reactant | (S)-5-amino-4′-fluoro-2′-((3-methyloxetan-3-yl)ethynyl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | 0.636 mmol, 0.251 g | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)C#CC2(COC2)C)F)O)COC1 | C22H19FN2O4
reactant | Boc2O | 1.39 mmol, 0.303 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.47 mmol, 0.204 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 4′-fluoro-7′-hydroxy-2′-((3-methyloxetan-3-yl)ethynyl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate | FC1=CC(=CC=2[C@@]3(C4=CC(=CC=C4OC12)O)COCC(=N3)NC(OC(C)(C)C)=O)C#CC3(COC3)C | C27H27FN2O6
